US05686611
2-Amino-6-chloro-9-[(diethylphosphonomethoxy)methoxymethyl]purine (6)
To a suspension of 60% sodium hydride in mineral oil (1.4 g, 34.5 mmol) in DMF (100 mL) was added 2-amino-6-chloropurine (5.78 g, 34.2 mmol) and the mixture was stirred for 1 hr at 25° C. To the resulting yellow solution was added dropwise a solution of above chloromethoxy(diethylphosphonomethoxy)methane in DMF (20 mL) under nitrogen. After stirring 15 hr at 25° C., volatiles were removed in vacuo. The residual oil was suspended in ethyl acetate (100 mL), washed with water (30 mL), brine and dried (MgSO4). The solvent was removed under reduced pressure, and the residual oil was chromatographed on silica gel using CH2Cl2 /3% MeOH as eluent to give the title compound as a colorless oil: yield 3.0 g (23%).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-amino-6-chloropurine | 34.2 mmol, 5.78 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | chloromethoxy(diethylphosphonomethoxy)methane | ClCOCOCP(=O)(OCC)OCC | C7H16ClO5P
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Amino-6-chloro-9-[(diethylphosphonomethoxy)methoxymethyl]purine | NC1=NC(=C2N=CN(C2=N1)COCOCP(=O)(OCC)OCC)Cl | C12H19ClN5O5P
